US08686000B2
Preparation of 1-(2,2-difluoroethyl)-3-(2-iodophenyl)-4-(prop-2-yn-1-yloxy)-1H-[1,3]thiazolo[4,5-c][1,2]thiazine 2,2-dioxide (compound No. I-h-2)
150 mg (0.3 mmol) of 1-(2,2-difluoroethyl)-3-(2-iodophenyl)-1H-[1,3]thiazolo[4,5-c][1,2]thiazin-4-ol 2,2-dioxide (compound I-a-14) were dissolved in 3 ml of DMF, and 85 mg of potassium carbonate were added at RT. The reaction mixture was stirred at RT for 5 min, and then 0.035 ml (0.46 mmol) of propargyl bromide was added dropwise. The reaction mixture was stirred at 90° C. for 4 h, then poured onto water and extracted repeatedly with ethyl acetate. The combined organic phases were dried (sodium sulfate) and concentrated to dryness. The residue was purified by means of preparative HPLC(C18—SiO2, gradient acetonitrile/water 20:80 to 100:0). This gave 51 mg of compound I-h-3.

reactant | 1-(2,2-difluoroethyl)-3-(2-iodophenyl)-1H-[1,3]thiazolo[4,5-c][1,2]thiazin-4-ol 2,2-dioxide | 0.3 mmol, 150 mg | FC(CN1S(C(=C(C2=C1N=CS2)O)C2=C(C=CC=C2)I)(=O)=O)F | C13H9F2IN2O3S2
reactant | potassium carbonate | 85 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 0.46 mmol, 0.035 ml | C(C#C)Br | C3H3Br
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-(2,2-difluoroethyl)-3-(2-iodophenyl)-4-(prop-2-yn-1-yloxy)-1H-[1,3]thiazolo[4,5-c][1,2]thiazine 2,2-dioxide | FC(CN1S(C(=C(C2=C1N=CS2)OCC#C)C2=C(C=CC=C2)I)(=O)=O)F | C16H11F2IN2O3S2
